US07429660B2
(5-Bromo-9H-thioxanthen-2-yl)-carbamic acid tert-butyl ester
Di-tert-butyl dicarbonate (22 g, 99 mmol) was added to a solution of 5-bromo-9H-thioxanthen-2-ylamine (19.28 g, 66 mmol) in dry THF (150 ml). The mixture was stirred and heated at 50° C. overnight. The solvent was removed in vacuo and the residue was triturated in water to give a brown solid, which was purified by column chromatography (silica, dichloromethane) to give the title compound as a fluffy white solid (18.28 g, 71%). %). 1HNMR (300 MHz, CDCl3): δH=1.55 (9H, s), 3.88 (2H, s), 6.45 (1H, bs), 7.06 (2H, m), 7.23 (1H, d), 7.39 (1H, d), 7.45 (1H, d), 7.58 (1H, bs).

reactant | Di-tert-butyl dicarbonate | 99 mmol, 22 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 5-bromo-9H-thioxanthen-2-ylamine | 66 mmol, 19.28 g | BrC1=C2SC=3C=CC(=CC3CC2=CC=C1)N | C13H10BrNS
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | (5-Bromo-9H-thioxanthen-2-yl)-carbamic acid tert-butyl ester | 18.28 g, 71% | C(C)(C)(C)OC(NC1=CC=2CC3=CC=CC(=C3SC2C=C1)Br)=O | C18H18BrNO2S
